US04988689
A mixture of 6 parts of ethyl 4-(1H-benzimidazol-2-ylamino)hexahydro-1H-azepine-1-carboxylate, 3.75 parts of 4-(chloromethyl)thiazole hydrochloride, 5.3 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred overnight at 70° C. Another amount of 4-(chloromethyl)thiazole hydrochloride and sodium carbonate were added and stirring was continued overnight at 70° C. After cooling, the reaction mixture was poured into water. The product was extracted with methylbenzene. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in ethanol. The salt was filtered off and dried, yielding 1.4 parts (13.5%) of ethyl hexahydro-4-[[1-(4-thiazolylmethyl)-1H-benzimidazol-2-yl]amino]-1H-azepine-1-carboxylate (E)-2-butenedioate (1:1); mp. 143.7° C. (compound 27).

reactant | ethyl 4-(1H-benzimidazol-2-ylamino)hexahydro-1H-azepine-1-carboxylate | N1C(=NC2=C1C=CC=C2)NC2CCN(CCC2)C(=O)OCC | C16H22N4O2
reactant | 4-(chloromethyl)thiazole hydrochloride | Cl.ClCC=1N=CSC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl hexahydro-4-[[1-(4-thiazolylmethyl)-1H-benzimidazol-2-yl]amino]-1H-azepine-1-carboxylate (E)-2-butenedioate | 13.5% | C(\C=C\C(=O)O)(=O)O.S1C=NC(=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CCC2)C(=O)OCC | InChI=1S/C20H25N5O2S.C4H4O4/c1-2-27-20(26)24-10-5-6-15(9-11-24)22-19-23-17-7-3-4-8-18(17)25(19)12-16-13-28-14-21-16;5-3(6)1-2-4(7)8/h3-4,7-8,13-15H,2,5-6,9-12H2,1H3,(H,22,23);1-2H,(H,5,6)(H,7,8)/b;2-1+
